US07459263B2
Next, thioxanthen-9-one-2-carboxylic acid was prepared. A mixture of 2,4′-thiobis(benzoic acid) (50 g, 182 mmol) and methansulfonic acid (600 mL) was heated at 85° C. for 5 h and then cooled to ambient. The reaction mixture was poured onto ice, and the resulting precipitate was collected, washed with water, and dried.

reactant | 2,4′-thiobis(benzoic acid) | 182 mmol, 50 g | S(C1=CC=C(C(=O)O)C=C1)C1=C(C(=O)O)C=CC=C1 | C14H10O4S
solvent | methansulfonic acid | 600 mL | CS(=O)(=O)O | CH4O3S
product | thioxanthen-9-one-2-carboxylic acid | C1=C(C=CC=2SC3=CC=CC=C3C(C12)=O)C(=O)O | C14H8O3S
